US05639764
(A). 1-[4-(3-Chloropropoxy)-2-hydroxy-5-methoxyphenyl]ethanone
A mixture of 2,4-dihydroxy-5-methoxyacetophenone (1.4 g, 7.7 mmol), K2O3 (1.4 g, 10.0 mmol), 3-chlorobromopropane (1.6 g, 10.0 mmol) and acetone (25 mL) was stirred and refluxed under N2 for 16 hours. The reaction was poured into H2O, and the aqueous suspension was extracted with ethyl acetate. The extract was washed (H2O, brine) dried (MgSO4) and concentrated to yield 1.4 g of an off-white solid. Recrystallization twice from ethanol afforded 0.4 g of the alkylated phenol as a solid, m.p. 99°-101° C.

reactant | 2,4-dihydroxy-5-methoxyacetophenone | 7.7 mmol, 1.4 g | CC(=O)C1=CC(=C(C=C1O)O)OC | C9H10O4
reactant | 3-chlorobromopropane | 10.0 mmol, 1.6 g | ClCCCBr | C3H6BrCl
reactant | acetone | 25 mL | CC(=O)C | C3H6O
solvent | H2O | O | H2O
product | 1-[4-(3-Chloropropoxy)-2-hydroxy-5-methoxyphenyl]ethanone | 1.4 g | ClCCCOC1=CC(=C(C=C1OC)C(C)=O)O | C12H15ClO4
